data/oMe_Silver.jsonl
{"reaction_id": "NR-202_1-c1ccccc1_2-c1ccc2ccccc2c1_3-c1ccc([N+](=O)[O-])cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(c1ccccc1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc([N+](=O)[O-])cc1"],"products_smiles": ["c1ccc([N+](=O)[O-])cc1C(=O)C(c1ccccc1)(c1ccc2ccccc2c1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](c1ccccc1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C2=NC(c1ccccc1)(c1ccc2ccccc2c1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)2(C(c1ccccc1)(c1ccc2ccccc2c1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)2(C(c1ccccc1)(c1ccc2ccccc2c1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C(C(c1ccccc1)(c1ccc2ccccc2c1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc([N+](=O)[O-])cc1C(=O)C(c1ccccc1)(c1ccc2ccccc2c1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
